US07786132B2
1-(2-(4-(5-Aminobenzo[b]thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione
A mixture of 1-(2-(5-bromo-4-(5-nitrobenzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione (996 mg, 1.97 mmol), ethanol (100 mL) and indium powder, 100 mesh (1.13 g, 9.85 mmol) was heated to reflux with stirring. After 1.5 h the reaction mixture was cooled to r.t., diluted with water (40 mL) and filtered through a pad of celite. The yellow precipitate (collected on the celite) was purified by reverse phase chromatography (0.1% TFA in AcCN:H20/10:90 to 95:5). The product fractions were combined, then passed through a 1 g SCX cartridge. The fully loaded cartridge was then washed with MeOH (4 mL) and 2 M ammonia in MeOH (8 mL). Elution of the desired compound was brought about by washing the cartridge finally with DMSO (4 mL). The solvent was removed in vacuo, employing a Genevac, to yield the title compound (142 mg, 15%) as a yellow amorphous solid. 1H NMR: δ (d6-DMSO, 400 MHz) 1.29 (s, 6H), 3.39-3.54 (m, 4H), 5.20 (s, 2H), 6.83 (d, J=8.61 Hz, 1H), 7.02 (s, 1H), 7.62 (d, J=8.61 Hz, 1H), 7.68 (s, 1H), 8.38 (s, 1H), 8.48 (s, 1H), 10.82 (s, 1H).

reactant | 1-(2-(5-bromo-4-(5-nitrobenzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 1.97 mmol, 996 mg | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C1=CC2=C(S1)C=CC(=C2)[N+](=O)[O-] | C19H17BrN6O4S
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | indium | [In] | In
solvent | water | 40 mL | O | H2O
product | 1-(2-(4-(5-Aminobenzo[b]thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 142 mg, 15% | NC1=CC2=C(SC(=C2)C2=NC(=NC=C2Br)NCCN2C(NC(C2(C)C)=O)=O)C=C1 | C19H19BrN6O2S
